US07838547B2
4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(4-methylhexahydropyrrolo[3,2-b]pyrrol-1-yl)phenyl]amide
4-(4-Methylhexahydropyrrolo[3,2-b]pyrrol-1-yl)phenylamine was reacted by method A with carbonyldiimidazole and finally with 4-(4-chlorophenyl)-piperidine. The product with the molecular weight of 439.01 (C25H31ClN4O); MS (ESI): 439 (M+H+) was obtained in this way.

reactant | 4-(4-Methylhexahydropyrrolo[3,2-b]pyrrol-1-yl)phenylamine | CN1CCC2N(CCC21)C2=CC=C(C=C2)N | C13H19N3
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-chlorophenyl)-piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | 4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(4-methylhexahydropyrrolo[3,2-b]pyrrol-1-yl)phenyl]amide | CN1CCC2N(CCC21)C2=CC=C(C=C2)NC(=O)N2CCC(CC2)C2=CC=C(C=C2)Cl | C25H31ClN4O
